US09403801B2
Step 7) tert-butyl 8-amino-2-azaspiro[4.5]decane-2-carboxylate
To a solution of tert-butyl 5-oxohexahydro-1H-isoindole-2(3H)-carboxylate (9.20 g, 36.31 mmol) in EtOH (290 mL) were added a solution of NH3 in MeOH (7 M, 290 mL, 2030 mmol) and Ti(Oi-Pr)4 (20.64 g, 72.62 mmol). After addition, the reaction mixture was stirred at rt for 6 h and NaBH4 (2.06 g, 54.47 mmol) was added portionwise. After addition, the resulting mixture was stirred at rt for 2 h, quenched with saturated ammonium hydroxide aqueous solution (150 mL), stirred at rt for 15 min and filtered. The filter cake was washed with DCM (150 mL) and the filtrate was concentrated in vacuo. The residue was dissolved in DCM (200 mL) and extracted with water (150 mL×2). The organic phase was washed with brine (100 mL), dried over anhydrous Na2SO4, concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/1) to give the product as yellow oil (7.34 g, 79.5%).

reactant | tert-butyl 5-oxohexahydro-1H-isoindole-2(3H)-carboxylate | 36.31 mmol, 9.20 g | O=C1CC2CN(CC2CC1)C(=O)OC(C)(C)C | C13H21NO3
reactant | NH3 | N | H3N
reactant | MeOH | 2030 mmol, 7 M, 290 mL | CO | CH4O
reactant | NaBH4 | 54.47 mmol, 2.06 g | [BH4-].[Na+]
solvent | EtOH | 290 mL | CCO | C2H6O
product | tert-butyl 8-amino-2-azaspiro[4.5]decane-2-carboxylate | 7.34 g, 79.5% | NC1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C14H26N2O2
